US08026257B2
(±)-tert-Butyl 4-((1-(5-fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of (±)-1-(5-fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-yl)ethyl 2,2,2-trichloroacetimidate (1.121 g, 2.465 mmol) and tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (0.839 g, 2.71 mmol) in dichloromethane (6 mL) at 0° C. was added cyclohexane (5.61 mL) and tetrafluoroboric acid diethyl ether complex (0.017 mL, 0.123 mmol). The reaction was stirred at 0° C. for 10 min. The reaction was treated with an additional portion of tetrafluoroboric acid diethyl ether complex (9 μL, 0.065 mmol) and stirred at 0° C. for 30 min. The reaction was quenched by addition of saturated sodium bicarbonate, diluted with diethyl ether, and poured into water. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (15%→22% EtOAc/Hex) gave 922 mg (62.2%) as an amorphous foam solid. 1H-NMR (CDCl3, 300 MHz) δ 7.98 (s, 1H), 7.26-7.32 (m, 2H), 6.97-7.08 (m, 3H), 6.64-6.68(m, 1H), 5.62 (s, 2H), 4.92 (q, J=6.0 Hz, 1H), 3.65-3.75 (m, 2H), 3.58 (m, 2H), 3.35 (m, 2H), 2.9-3.1 (m, 2H), 1.8-2.2 (m, 4H), 1.39-1.42(m, 12H), 0.88(m, 2H), −0.07 (s, 9H); Mass spec.: 602.54 (MH)+.

reactant | (±)-1-(5-fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-yl)ethyl 2,2,2-trichloroacetimidate | 2.465 mmol, 1.121 g | ClC(C(OC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)F)=N)(Cl)Cl | C17H23Cl3FN3O2Si
reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 2.71 mmol, 0.839 g | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
reactant | cyclohexane | 5.61 mL | C1CCCCC1 | C6H12
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (±)-tert-Butyl 4-((1-(5-fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | FC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45F2N3O4Si
